US09029560B2
Preparation 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropanecarbonyl azide (C21)
To 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-cyclopropanecarboxylic acid (C20) (2.49 g, 6.40 mmol) in toluene (30 mL) was added triethylamine (2.20 mL, 16.0 mmol), followed by diphenyl phosphorazidate (1.70 mL, 8.00 mmol). The yellow solution was stirred overnight at room temperature. The reaction was quenched with water and saturated aqueous sodium bicarbonate, extracted with 1:1 ethyl acetate/hexanes (2×), dried over anhydrous sodium sulfate, and filtered. The crude compound was adsorbed onto silica gel and purified by flash column chromatography using 0-100% ethyl acetate/hexanes as eluent to afford the title compound as a yellow oil (1.94 g, 73%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.16-8.03 (m, 2H), 7.83-7.72 (m, 2H), 7.44-7.34 (m, 2H), 7.20 (d, J=8.2 Hz, 2H), 2.70 (ddd, J=9.3, 6.8, 4.1 Hz, 1H), 1.98 (ddd, J=8.4, 5.3, 4.1 Hz, 1H), 1.78 (dt, J=9.4, 5.0 Hz, 1H), 1.53 (ddd, J=8.3, 6.8, 4.7 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −58.03.

reactant | 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-cyclopropanecarboxylic acid | 6.40 mmol, 2.49 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C1C(C1)C(=O)O)(F)F | C19H14F3N3O3
reactant | triethylamine | 16.0 mmol, 2.20 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorazidate | 8.00 mmol, 1.70 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropanecarbonyl azide | 1.94 g, 73% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C1C(C1)C(=O)N=[N+]=[N-])(F)F | C19H13F3N6O2
